US08349833B2
6-(2-Chlorophenyl)-2,2-dimethylhex-5-enoic acid ethyl ester (15 g, 53.6 mmol) was dissolved in glacial acetic acid (150 mL). The solution was cooled in an ice-bath (ca. 15° C.) while dry hydrogen bromide was passed into the solution for 8 h. The reaction mixture was poured into ice-water (250 mL) and extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with saturated NaHCO3 solution (100 mL), dried over Na2SO4, and concentrated under reduced pressure. The crude product (18 g) was purified by column chromatography (silica gel, ethyl acetate/heptane=1/20 to 1/10) to provide 6-bromo-6-(2-chlorophenyl)-2,2-dimethylhexanoic acid ethyl ester (15.5 g, 80.14%) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.58 (d, 1H, J=7.8 Hz), 7.34 (t, 1H, J=7.8 Hz), 7.27 (d, 1H, J=7.2 Hz), 7.21 (t, 1H, J=7.2 Hz), 5.45 (t, 1H, J=8.1 Hz), 4.09 (q, 2H, J=6.9 Hz), 2.19 (m, 2H), 1.55 (m, 2H), 1.24 (t, 3H, J=6.9 Hz), 1.14 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 177.45, 139.25, 132.64, 129.64, 129.27, 128.75, 127.43, 60.36, 49.97, 42.17, 39.84, 39.51, 25.41, 25.20, 23.67, 14.43. MS (GC-CI): Calculated for C16H22BrClO2 (MH)+: 361.0564; found 361.0547.

reactant | 6-(2-Chlorophenyl)-2,2-dimethylhex-5-enoic acid ethyl ester | 53.6 mmol, 15 g | C(C)OC(C(CCC=CC1=C(C=CC=C1)Cl)(C)C)=O | C16H21ClO2
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-6-(2-chlorophenyl)-2,2-dimethylhexanoic acid ethyl ester | 15.5 g, 80.14% | C(C)OC(C(CCCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C16H22BrClO2
